US04772594
To a solution of N-(cholest-5-en-3β-oxycarbonyl)glycine (160.8 mg) in dry tetrahydrofuran (50 ml) was added said bis(2-chloroethyl)amine (85.2 mg) and dicyclohexylcarbodiimide (61.9 mg) at 0° C. under blowing nitrogen gas and the mixture was stirred for 6 hours. After standing overnight (17 hours) at refrigerator, the reaction mixture was filtered and the solvent was evaporated under reduced pressure. The residue was solved in a mixture of chloroform and methanol (50:1) and was subjected to preparation column chromatography (PLC) eluting with a mixture of chloroform and methanol (50:1). The desired parts were gathered, extracted with a mixture of chloroform and methanol (4:1), filtered and concentrated under reduced pressure to give N-[N-(cholest-5-en-3β-oxycarbonyl)glycyl]bis(2-chloroethyl)amine (110 mg).

reactant | N-(cholest-5-en-3β-oxycarbonyl)glycine | 160.8 mg | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OC(=O)NCC(=O)O | C30H49NO4
reactant | bis(2-chloroethyl)amine | 85.2 mg | ClCCNCCCl | C4H9Cl2N
reactant | dicyclohexylcarbodiimide | 61.9 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-[N-(cholest-5-en-3β-oxycarbonyl)glycyl]bis(2-chloroethyl)amine | 110 mg | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OC(=O)NCC(=O)N(CCCl)CCCl | C34H56Cl2N2O3
